data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-c1cnccc1_2-Cl_3-C_4-C#N","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1cnccc1NC(=O)C(Cl)(C)Oc1ccc(C#N)cc1","CC[O-]"],"products_smiles": ["c1cnccc1N(c1ccc(C#N)cc1)C(=O)C(Cl)(C)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1cnccc1[N-]C(=O)C(Cl)(C)Oc1ccc(C#N)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(C#N)=C1)OC(Cl)(C)C(N2c1cnccc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1cnccc1N(c1ccc(C#N)cc1)C(=O)C(Cl)(C)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1cnccc1N(c1ccc(C#N)cc1)C(=O)C(Cl)(C)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-319_1-c1cnccc1_2-C_3-C2CCCCC2_4-C2CC2","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(c1cnccc1)C1(C)OC1(C2CCCCC2)C2CC2","NN"],"products_smiles": ["[CH](=C(C)C(O)(C2CCCCC2)C2CC2)c1cnccc1"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1cnccc1)C1(C)OC1(C2CCCCC2)C2CC2","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(c1cnccc1)=C(C)C(O)(C2CCCCC2)C2CC2","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(c1cnccc1)=C(C)C(O)(C2CCCCC2)C2CC2","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C)C(O)(C2CCCCC2)C2CC2)c1cnccc1","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C)C(O)(C2CCCCC2)C2CC2)c1cnccc1","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
